US06911469B2
3-(2,4-Dichlorobenzyl)-2-methylpyrrolo[3,2-b]pyridine-5-carboxylic acid
A solution of ethyl 3-(2,4-dichlorobenzyl)-5-cyano-2-methylpyrrolo[3,2-b]pyridine-1-carboxylate (180 mg) in acetic acid (1 ml) and concentrated hydrochloric acid (1 ml) was refluxed under heating. The mixture was allowed to react overnight, and concentrated hydrochloric add (1 ml) was added, which was followed by reflux under heating for 10 hr. The reaction mixture was cooled and adjusted to pH 7 with a 30% aqueous solution of sodium hydroxide. After stirring for 2 hr, crystals were collected by filtration to give the object compound (135 mg) as yellow crystals.

reactant | ethyl 3-(2,4-dichlorobenzyl)-5-cyano-2-methylpyrrolo[3,2-b]pyridine-1-carboxylate | 180 mg | ClC1=C(CC2=C(N(C=3C2=NC(=CC3)C#N)C(=O)OCC)C)C=CC(=C1)Cl | C19H15Cl2N3O2
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 1 ml | Cl | ClH
product | 3-(2,4-Dichlorobenzyl)-2-methylpyrrolo[3,2-b]pyridine-5-carboxylic acid | 135 mg | ClC1=C(CC=2C(=NC=3C2NC(=CC3)C(=O)O)C)C=CC(=C1)Cl | C16H12Cl2N2O2
